US04605674
A mixture of 98 mg of 2'-hydroxy-4',6'-dimethoxyacetophenone, 85 mg of 4-acetamidobenzaldehyde and 1 g of potassium hydroxide in 4 ml of 50% aqueous ethanol was stirred at room temperature for 3 days. The mixture was poured into 30 ml of cold water and then extracted with three 30 ml portions of ethyl acetate. The combined extracts were washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue was purified by preparative thin layer chromatography using a silica gel plate (Kiesel gel 60 F254, Merck Co.) and cyclohexane/ethyl acetate (1:1, v/v) as the developing solvent, whereby 12 mg of 4-amino-2'-hydroxy-4',6'-dimethoxychalcone as a yellow powder were obtained: Rf value 0.22; 1H-nmr spectrum (in CDCl3): δ3.6(2H), 3.72(3H), 3.82(3H), 5.90(1H), 6.06(1H), 6.56(1H), 6.70(1H), 7.50(1H), 7.62(1H) and 14.4 ppm (1H).

reactant | 2'-hydroxy-4',6'-dimethoxyacetophenone | 98 mg | OC1=C(C(=CC(=C1)OC)OC)C(C)=O | C10H12O4
reactant | 4-acetamidobenzaldehyde | 85 mg | C(C)(=O)NC1=CC=C(C=O)C=C1 | C9H9NO2
reactant | potassium hydroxide | 1 g | [OH-].[K+]
reactant | water | 30 ml | O | H2O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-amino-2'-hydroxy-4',6'-dimethoxychalcone | 12 mg | NC1=CC=C(C=C1)C=CC(=O)C1=C(C=C(C=C1OC)OC)O | C17H17NO4
